US04035363
To 15 ml. of dioxane are added 3 g. of ortho-normalpropoxyphenol, 9 ml. of 37% of formalin and 2.4 g. of phenethylamine. The mixture is heated on reflux for 3 hours and distilled to remove the solvent under reduced pressure. The residue is purified by column chromatography on silica gel with a mixture of acetone and benzene (1:4). The resultant oily substance is cooled to be crystallized. A small portion of ethanol is added to the crystals, followed by filtration. The procedure yields 3-phenethyl-8-normal-propoxy-3,4-dihydro-2H-1,3-benzoxazine as colorless needless melting at 84° C. Yield: 3.8 g.

reactant | ortho-normalpropoxyphenol | C(CC)OC1=C(C=CC=C1)O | C9H12O2
reactant | formalin | C=O | CH2O
reactant | phenethylamine | C(CC1=CC=CC=C1)N | C8H11N
reactant | dioxane | O1CCOCC1 | C4H8O2
product | 3-phenethyl-8-normal-propoxy-3,4-dihydro-2H-1,3-benzoxazine | C(CC1=CC=CC=C1)N1COC2=C(C1)C=CC=C2OCCC | C19H23NO2
